US05278148
600 mg (1.69 mmol) of t-butyl [(1S)-1-(cyclohexylmethyl)-2-hydroxy-3-piperidinopropyl]carbamate were dissolved in 6 ml of 5.2N hydrochloric acid in dioxan and subsequently stirred at room temperature for 2 hours. Thereafter, the reaction solution was evaporated under reduced pressure, made alkaline with 25% ammonia solution and extracted with ether. Drying and evaporation of the ether extract yielded 400 mg (93%) of α-[(S)-1-amino-2-cyclohexylethyl]-1-piperidineethanol (αR:αS=5:1) as a resin, MS: 236 (M-H2O)+.

reactant | t-butyl [(1S)-1-(cyclohexylmethyl)-2-hydroxy-3-piperidinopropyl]carbamate | 1.69 mmol, 600 mg | C1(CCCCC1)C[C@@H](C(CN1CCCCC1)O)NC(OC(C)(C)C)=O | C20H38N2O3
solvent | hydrochloric acid | 5.2N, 6 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | α-[(S)-1-amino-2-cyclohexylethyl]-1-piperidineethanol | 400 mg, 93% | N[C@@H](CC1CCCCC1)C(CN1CCCCC1)O | C15H30N2O
